US07906511B2
2-(2-Acetylaminopyrimidin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (Compound No. 2-1)
Triethylamine (45 μL, 0.32 mmol) was added to a solution of N-(3,5-dimethylphenyl)-2-thioxo-1,2-dihydropyridine-3-carboxamide (28 mg, 0.11 mmol, Reference Compound No. 13-1) and 2-acetylamino-4-(chloromethyl)pyrimidine (18 mg, 0.10 mmol, Reference Compound No. 11-1) in anhydrous N,N-dimethylformamide (1.0 mL) at room temperature, and the mixture was stirred for 16 hours. Ethyl acetate (30 mL) was added thereto, then the whole was washed with saturated aqueous sodium hydrogen carbonate solution (30 mL) and brine (30 mL), and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and then the precipitated solid was filtered off with diethyl ether and washed. The solid was dried at 50° C. under reduced pressure to give 21 mg of the target compound as a light orange solid (Yield: 52%).

reactant | Triethylamine | 0.32 mmol, 45 μL | C(C)N(CC)CC | C6H15N
reactant | N-(3,5-dimethylphenyl)-2-thioxo-1,2-dihydropyridine-3-carboxamide | CC=1C=C(C=C(C1)C)NC(=O)C=1C(NC=CC1)=S | C14H14N2OS
reactant | 2-acetylamino-4-(chloromethyl)pyrimidine | 0.10 mmol, 18 mg | C(C)(=O)NC1=NC=CC(=N1)CCl | C7H8ClN3O
reactant | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 2-(2-Acetylaminopyrimidin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | 21 mg, Yield: 52% | C(C)(=O)NC1=NC=CC(=N1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C21H21N5O2S
